Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
Placement and subsequent removal of right femoral venous line

 
History of Present Illness:
(The patient is very drowsy at the time of interview due to IV 
dilaudid that given in ED- difficult to elicit answers. History 
obtained from ED records) Mr. ___ is a ___SRD on 
HD, gastroparesis, autonomic dysfunction, CAD (STEMI, NSTEMI), 
s/p cardiac catherization on ___, who presents with his 
usual nausea, vomiting, abdominal pain that began this morning. 
Abd pain ___, left sided. 
.
On arrival at the ED: ___, ___  18  98% on RA. ___ 476. 
Received reg Insulin 10 mg IV, Dilaudid 2 mg IM x 1, ativan 2 mg 
IM x 1. Fight femoral line was placed. X-ray of abdomen showed 
large stool, no free air. Labs showed Trop of 0.5 (at baseline 
0.3-0.4) Cardiology was consulted in the ED-> thought ACS was 
unlikely in this patient w/o CP with ESRD. Renal was also 
consulted and the patient was taken for dialysis, then admitted 
to the floor for pain and nausea control.
 
Past Medical History:
- Diabetes Mellitus Type I
- Gastroparesis with chronic hospitalizations
- ESRD on HD since ___
- Autonomic dysfunction, frequent HTN emergency & orthostatic 
hypotension
- Peripheral neuropathy
- Coronary artery disease, STEMI ___ in setting of 
cocaine, s/p BMS to LAD
- Aortic valve endocarditis (___) and ___ (MSSA tx with 
nafcillin)
- Frequent bacteremia/line infections, often coag neg staph.
- prior line sepsis with klebsiella and enterobacteremia
- Esophageal ulceration: H pylori neg, active esophagitis seen
on EGD ___, h/o ___ tear
- History of substance abuse (cocaine, marijuana, alcohol)
- History of thrombosed AV fistula in LUE ___, gore-tex in 
place
- Fungemia completed caspofungin IV on ___
- GI bleed associated with hypotension-colonscopy showed friable 
and inflammed ascending and transverse colon,suggestive either 
of ischemia or infection ___
- NSTEMI in setting hypertension on ___
 
Social History:
___
Family History:
Father deceased of ESRD and DM. Mother aged ___ with  
hypertension. Two sisters, one with diabetes. Six brothers, one 
with diabetes. There is no family history of premature coronary 
artery disease or sudden death.  

 
Physical Exam:
Vitals: T:97.5  P: 96  BP: 143/107  R:18  SaO2:  97% on RA
General: drowsy but arousable. alert and oriented x 3  
HEENT: NC/AT, EOMI, no scleral icterus, MMM  
Neck: supple, no JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally  
Cardiac: tachycardic. S1S2, ___, SEM at apex
Abdomen: soft, non-distended. Diffusely tender to palpation.   
Extremities: No C/C/E bilaterally  
Neurologic:  
-mental status: drowsy, oriented x 3. Limited neuro exam due to 
patient's inability to cooperate.

 
Pertinent Results:
___ 12:15PM BLOOD WBC-7.1 RBC-4.27* Hgb-11.0* Hct-34.8* 
MCV-82 MCH-25.7* MCHC-31.5 RDW-20.4* Plt ___
___ 12:15PM BLOOD Neuts-81.0* Lymphs-9.4* Monos-4.7 
Eos-4.5* Baso-0.4
___ 12:15PM BLOOD ___ PTT-27.9 ___
___ 12:15PM BLOOD Glucose-344* UreaN-61* Creat-10.3*# 
Na-137 K-4.9 Cl-94* HCO3-25 AnGap-23*
___ 12:15PM BLOOD ALT-9 AST-14 CK(CPK)-313* AlkPhos-103 
TotBili-0.2
___ 12:15PM BLOOD Lipase-74*
___ 12:15PM BLOOD cTropnT-0.53*
___ 12:15PM BLOOD CK-MB-9
.
KUB ___
No free air, air fluid levels or gas-distended loops of bowel. 
No evidence of obstruction. Moderate constipation. 
.
Cardiac catherization ___
COMMENTS:      
1. Selective coronary angiography of this right dominant system 
revealed 3 vessel coronary artery disease. The LMCA was normal. 
The LAD had 80% diffuse in-stent restenosis followed by a 95% 
stenosis just beyond the stent. The distal LAD had a 99% 
stenosis. D1 had a 60% stenosis, and D2 was occluded with 
filling from left to left collaterals. The LCX had a 60% 
proximal stenosis. The RCA had a 90% proximal stenosis, 70% mid 
stenosis, and 70% distal stenosis. The PDA was occluded, and 
filled via left to right collaterals. 
2. Resting hemodynamics revealed moderately elevated right sided 
filling pressures with a RVEDP of 18mm Hg, and mildly elevated 
left sided filling pressures with a LVEDP of 25mm Hg. Systemic 
arterial pressures were normal. The SVR was normal at 13.1 Wood 
units. The PVR was normal at 1.7 Wood units. 
3. Left ventriculography revealed a globally hypokinetic 
ventricle, with
an ejection fraction of 25%. There was no mitral regurgitation. 
There was no transaortic valvular gradient on careful pullback 
of the catheter from the ventricle to the aorta. 
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 
2. Severe systolic ventricular dysfunction with an ejection 
fraction of 
25%. 
3. Moderate to severe pulmonary arterial hypertension. 
.
EKG on admission ___: 
NSR at vent rate of 99. Unchanged old Q waves in anterior leads. 
Isolated 1mm ST elevation in aVF. Otherwise similar to prior 
dated ___

 
Brief Hospital Course:
Mr. ___ is a ___SRD on HD ___, 
gastroparesis, autonomic dysfunction, CAD (STEMI, NSTEMI), s/p 
cardiac catherization on ___, who presents with his usual 
nausea, vomiting, abdominal pain that began the morning of 
presentation. 
.
# N/V/abdominal pain: These symptoms were essentially identical 
to his usual gastroparesis symptoms. LFTs were WNL. Lipase was 
slightly elevated however was not outside his previous range. IV 
Ativan and Dilaudid were helpful for symptom relief and he was 
able to tolerate regular diet starting the night of Hospital Day 
2. IV Reglan, Compazine and Zofran were also made available for 
the patient. His IV medications were switched to PO equivalents 
and the patient was discharged home with PO reglan, dilaudid and 
ativan for pain/nausea control and prevention of future 
episodes. 
.
# ESRD on HD: Patient underwent his regularly scheduled HD 
sessions (___) while hospitalized through the left 
tunnelled femoral HD line. He was continued on Lanthanum, 
Nephrocaps as per home regimen. Nephrology consulted the patient 
in the ED and followed the patient in-house.
.
# Elevated Troponin: The patient was 3 days post-cardiac 
catherization. Patient has a history of high troponins likely 
due to persistent troponin leakage in the setting of decreased 
clearance due to ESRD. Pt's troponin of 0.5 on admission 
increased to 0.83 the next day, which is more elevated that his 
usual range. However CK remained flat between 200 and 300, with 
negative CK-MB index. Cardiology service was aware of the 
patient's elevated tropnonin. They recommended continuing 
medical treatment as ACS was thought to be unlikely with flat 
CKs, normal CK-MB index, and in the absence of EKG changes and 
chest pain. Pt was continued on ___, statin, BBker and 
Lisinopril per home regimen. 
- The cardiac catherization on ___ showed 3-vessel disease. 
Patient has a Cardiology appointment with Dr. ___ on ___ to 
discuss further treatment options such as CABG. Dr. ___ will 
see him as inpatient if the patient is in-house at that time and 
misses the appointment. (***HOUSE STAFF: PLEASE LET ___. ___ 
___ IF THIS HAPPENS SO THAT HE IS AWARE***) 
.
# DM: Blood sugar was poorly controlled during hospitalization 
due to pt's inconsistent dietary intake. He was continued on 
home dosing NPH and a gentle sliding scale. The patient was 
discharged with his previous regimen of 5 Units NPH QAM and 
regular insulin sliding scale. 
.
# HTN: BP was well controlled during this hospitalization 
(mostly 100s-120s systolic, with occasional spikes into 150s). 
Home medications were continued. 
.
# Access: pre-existing left tunnelled femoral line for 
hemodialysis; right femoral venous catheter placed in ED for IV 
therapy and blood draws, d/c'd at discharge.

 
Medications on Admission:
Zocor 40mg daily
Clonidine 0.3mg/24 hour, apply each ___
Clonidine 0.1mg twice a day
___ 75mg daily
Labetalol 200mg twice a day
Lisinopril 40mg daily
Ativan ___ tablets as needed
Metoclopramide 10mg QID prn
Protonix 40mg daily
Prochlorperazine 10mg every six hours as needed
Aspirin 325mg daily (recently ran out-not taking)
NPH insulin 5 units every morning
Regular Insulin sliding scale as needed
Phoslo 667mg three times a day
Dilaudid 4mg prn
Lanthanum 1000mg t.i.d
.
B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).
Gabapentin 300 mg Capsule Sig: One (1) Capsule PO QHD (each 
hemodialysis).
Zofran 4 mg Tablet Sig: One (1) Tablet PO three times a day.
Disp:*90 Tablet(s)* Refills:*2*
Vicodin ___ mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.  

 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Clonidine 0.3 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QMON (every ___.  
3. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
9. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
11. Lanthanum 500 mg Tablet, Chewable Sig: Two (2) Tablet, 
Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
12. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
13. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO QHD (each 
hemodialysis).  
14. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Five (5) 
unit Subcutaneous QAM.  
15. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
16. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.
Disp:*100 Tablet(s)* Refills:*0*
17. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
18. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Gastroparesis 
Secondary: 
Diabetes
Coronary artery disease
Autonomic dysfunction

 
Discharge Condition:
Good, free of abdominal pain, nausea, vomiting. Tolerating POs 
well. 

 
Discharge Instructions:
You were admitted to the ___ because you developed an 
exacerbation of your recurrent abdominal pain, nausea and 
vomiting.   
.
You were treated with IV pain and nausea medications which 
brought improvement of your symptoms. You were also dialysed per 
your regular schedule.  
.
Blood tests showed high cardiac enzymes which can mean ongoing 
injury to the heart. It may also be due to the recent heart 
procedure that you had as well as the impaired clearing due to 
kidney disease. The cardiologists recommended ongoing treatment 
with medications for now; and you have an appointment with Dr. 
___ week to discuss the findings from your heart 
procedure and different options for further treatment. Please 
make sure that you go to his appointment. If you happen to be in 
the hospital again at that time, please let your doctors know ___ 
that Dr. ___ see you here as an inpatient. 
.
If you experience new abdominal pain, nausea, vomiting, chest 
pain, shortness of breath, palpitations, fever, chills, cough, 
lightheadedness or any other symptoms concerning to you, please 
call your primary care provider or go to the nearest emergency 
room.
 
Followup Instructions:
___